US07696210B2
Pyrido[3,4-b]pyrazine-3-carbaldehyde:
A suspension of the vinylpyridopyrazinedione above (0.14 g, 0.74 mMol) in dioxane (6 mL) and water (3 mL) was treated with 2.5% osmium tetroxide solution in t-butanol (0.38 mL, 37 μMol) and sodium periodate (0.48 g, 2.2 nMol). After stirring for 3 h the reaction mixture was diluted with water (20 mL) and the product was purified by reversed phase HPLC (method F) using nonbuffered mobile phase. The pure product was isolated as a solid (56 mg, 40%). 1H-NMR (DMSO-d6), δ=12.80 (bs, 1H), 12.20 (bs, 1H), 10.01 (s, 1H), 8.62 (d, 1H, J=1.8 Hz), 7.78 (d, 1H, J=1.8 Hz).

reactant | vinylpyridopyrazinedione | C(=C)C=1C=CC=2C(=NC(C(N2)=O)=O)N1 | C9H5N3O2
reactant | t-butanol | 37 μMol, 0.38 mL | C(C)(C)(C)O | C4H10O
reactant | sodium periodate | 2.2 nMol, 0.48 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 20 mL | O | H2O
reactant | water | 3 mL | O | H2O
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | Pyrido[3,4-b]pyrazine-3-carbaldehyde | 56 mg, 40% | N1=C2C(=NC(=C1)C=O)C=NC=C2 | C8H5N3O
